US07163947B2
A solution of tert-butyl {3-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate (1.34 g, 3.35 mmol) in 30 mL of CHCl3 was treated with MCPBA (1.45 g, 5.03 mmol, 77% max). After 3 h, the reaction mixture was diluted with 10% Na2CO3 solution and CHCl3 and the phases were separated. The organic portion was washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield tert-butyl {3-[(2-ethoxymethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate (1.39 g) as an orange foam.

reactant | tert-butyl {3-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate | 3.35 mmol, 1.34 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)NCCCNC(OC(C)(C)C)=O | C21H29N5O3
reactant | MCPBA | 5.03 mmol, 1.45 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | tert-butyl {3-[(2-ethoxymethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate | 1.39 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)NCCCNC(OC(C)(C)C)=O | C21H29N5O4
